US07456186B2
Preparation of 7-[(3-(Pyrimidin-5-yl)phenyl]-7-[4-(trifluoromethoxy)phenyl]-7H-imidazo[1,5-a]imidazol-5-ylamine
A mixture of 7-(3-(bromophenyl)-7-[4-(trifluoromethoxy)phenyl]-7H-imidazo[1,5-a]imidazol-5-ylamine (0.201 g, 0.460 mmol), 5-pyrimidine boronic acid (0.073 g, 0.587 mmol), bis(triphenylphosphino)palladium(II) chloride (0.016 g, 0.0232 mmol), triphenylphosphine (0.012 g, 0.047 mmol) and potassium carbonate (0.189 g, 1.37 mmol) in 5:1 dioxane/water is heated at 100° C. for 3.5 h, cooled to room temperature and concentrated. The resultant residue is purified by flash chromatography (silica, 96:4:0.5 methylene chloride/methanol/concentrated ammonium hydroxide as eluent) to afford the title compound as an off-white solid, 0.037 g (19% yield), mp 120-130° C.; identified by NMR and mass spectral analyses.

reactant | 3-(bromophenyl)-7-[4-(trifluoromethoxy)phenyl]-7H-imidazo[1,5-a]imidazol-5-ylamine | 0.460 mmol, 0.201 g | BrC1=C(C=CC=C1)C1=CN=C2N1C(=NC2C2=CC=C(C=C2)OC(F)(F)F)N | C18H12BrF3N4O
reactant | 5-pyrimidine boronic acid | 0.587 mmol, 0.073 g | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | triphenylphosphine | 0.047 mmol, 0.012 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium carbonate | 1.37 mmol, 0.189 g | C([O-])([O-])=O.[K+].[K+]
catalyst | bis(triphenylphosphino)palladium(II) chloride | 0.0232 mmol, 0.016 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl
solvent | dioxane water | O1CCOCC1.O
product | (3-(Pyrimidin-5-yl)phenyl]-7-[4-(trifluoromethoxy)phenyl]-7H-imidazo[1,5-a]imidazol-5-ylamine | 19% yield | N1=CN=CC(=C1)C=1C=C(C=CC1)NC1=NC(C=2N1C=CN2)C2=CC=C(C=C2)OC(F)(F)F | C22H15F3N6O
